US09216224B2
tert-Butyl 2-(2-aminoethoxy)ethylcarbamate (150 mg, 0.735 mmol) was then taken up in CH3CN (10 mL) along with indomethacin (263 mg, 0.735 mmol) and EDCI (155 mg, 0.81 mmol). The resulting reaction mixture was stirred at room temperature for 18 h. It was then diluted with EtOAc (20 mL), washed with saturated aqueous NaHCO3, brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (9:1 CH2Cl2/MeOH) to afford 310 mg of tert-butyl 2-(2-(2-(1-(4-chlorobenzoyl)-5-methoxy-2-methyl-1H-indol-3-yl)acetamido)ethoxy)ethylcarbamate (78%).

reactant | tert-Butyl 2-(2-aminoethoxy)ethylcarbamate | 0.735 mmol, 150 mg | NCCOCCNC(OC(C)(C)C)=O | C9H20N2O3
reactant | indomethacin | 0.735 mmol, 263 mg | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | EDCI | 0.81 mmol, 155 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 2-(2-(2-(1-(4-chlorobenzoyl)-5-methoxy-2-methyl-1H-indol-3-yl)acetamido)ethoxy)ethylcarbamate | 310 mg, 78% | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)NCCOCCNC(OC(C)(C)C)=O)C)C=C1 | C28H34ClN3O6
